US06255276B1
94 g (0.2 mol) of (6-carboxyhexyl)triphenylphosphonium bromide were suspended in 500 ml of tetrahydrofuran. 47 g (0.42 mol) of potassium t-butylate in 200 ml of tetrahydrofuran were added, followed by 50 g (0.22 mol) of 9-bromononanal. After work up and chromatography 52 g (78%) of 7Z-16-bromohexadec-7-enoic acid were obtained having the following characteristics: Z/E=90/10;

reactant | (6-carboxyhexyl)triphenylphosphonium bromide | 0.2 mol, 94 g | [Br-].C(=O)(O)CCCCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 9-bromononanal | 0.22 mol, 50 g | BrCCCCCCCCC=O | C9H17BrO
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 7Z-16-bromohexadec-7-enoic acid | 52 g, 78% | BrCCCCCCCC\C=C/CCCCCC(=O)O | C16H29BrO2
